US09388189B2
(S)-2-(1-((5-(3-Hydroxy-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(3-Hydroxy-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.07 mmol) was treated with trifluoroacetic acid (2 ml, 25 mmol) and a solution of ammonia (7N in methanol, 3 ml, 135 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (DCM to DCM-Isopropyl alcohol 15%) to give 10 mg (67% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-(3-Hydroxy-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 50 mg | OC=1C=C(C=C(C1)C=1OC(=NN1)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C36H39N9O4Si
reactant | trifluoroacetic acid | 25 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 135 mmol, 7N, 3 ml | N | H3N
product | (S)-2-(1-((5-(3-Hydroxy-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 10 mg, 67% yield | OC=1C=C(C=C(C1)C=1OC(=NN1)C)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C30H25N9O3
